US07576217B2
2,2,2-Trifluoro-1-[6-iodo-4-(4-methanesulfonyl-phenyl)-2-methyl-quinolin-3-yl]-ethanone
The title compound was prepared from (2-Amino-5-iodo-phenyl)-(4-methanesulfonyl-phenyl)-methanone [example A17] and 1,1,1-trifluoro-2,4-pentanedione according to the procedure of example 1, except that the solvent was isopropanol, the reaction time was of 16 h and heptane/ethyl acetate (1:2) was used. Yield: 55%; MS: m/z=519 (M).

reactant | (2-Amino-5-iodo-phenyl)-(4-methanesulfonyl-phenyl)-methanone | NC1=C(C=C(C=C1)I)C(=O)C1=CC=C(C=C1)S(=O)(=O)C | C14H12INO3S
reactant | 1,1,1-trifluoro-2,4-pentanedione | FC(C(CC(C)=O)=O)(F)F | C5H5F3O2
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
product | 2,2,2-Trifluoro-1-[6-iodo-4-(4-methanesulfonyl-phenyl)-2-methyl-quinolin-3-yl]-ethanone | Yield: 55% | FC(C(=O)C=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)S(=O)(=O)C)I)C)(F)F | C19H13F3INO3S
